US09233985B2
A mixture of N-(tert-butoxycarbonyl)-4-(trifluoromethyl)phenylalanine (268 mg, 0.804 mmol), 1-hydroxybenzotriazole hydrate (123 mg, 0.804 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (154 mg, 0.804 mmol) in dry methylene chloride (10 mL) and DMF (3 mL) was stirred at room temperature. After 1 h, a second solution of racemic 2-oxo-2-phenylethyl (3R,4S)-3-azido-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxylate hydrochloride (350 mg, 0.73 mmol) in methylene chloride (3.5 mL) was added, followed immediately by Et3N (204 uL, 1.46 mmol), and the resulting homogeneous mixture was stirred at room temperature for 3.5 h. Once complete, the mixture was diluted with dichloromethane (8 mL), washed successively with water (2×20 mL), saturated aqueous NaHCO3 (2×20 mL) and saturated aqueous sodium chloride, dried over Na2SO4 and concentrated. Purification by silica gel chromatography (90 g column, 15-35% ethyl acetate in hexanes) gave 2-oxo-2-phenylethyl (3R,4S)-3-azido-1-[N-(tert-butoxycarbonyl)-4-(trifluoromethyl)phenylalanyl]-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxylate (233 mg, ˜60% purity) as a white foam which was used without further purification. LC-MS ESI+ MS found for C37H47BF3N5O8 m/z 758.3 (M+H), 780.3 (M+Na); ESI− MS m/z 756.5 (M−H).

reactant | N-(tert-butoxycarbonyl)-4-(trifluoromethyl)phenylalanine | 0.804 mmol, 268 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H18F3NO4
reactant | 1-hydroxybenzotriazole hydrate | 0.804 mmol, 123 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.804 mmol, 154 mg | Cl.CN(CCCN=C=NCC)C
reactant | racemic 2-oxo-2-phenylethyl (3R,4S)-3-azido-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxylate hydrochloride | 0.73 mmol, 350 mg | Cl.N(=[N+]=[N-])[C@]1(CNC[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)OCC(C1=CC=CC=C1)=O
reactant | Et3N | 1.46 mmol, 204 uL | CCN(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-oxo-2-phenylethyl (3R,4S)-3-azido-1-[N-(tert-butoxycarbonyl)-4-(trifluoromethyl)phenylalanyl]-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxylate | 233 mg, ~60% | N(=[N+]=[N-])[C@]1(CN(C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC(C1=CC=CC=C1)=O | C37H47BF3N5O8
